US03979518
3-Methoxypropyl urea was prepared from methoxypropylamine and potassium cyanate. Seventy-six grams of this product was mixed with 43 g. of cyanoacetic acid and 100 ml. of acetic anhydride. The mixture was stirred and heated on a steam bath. When the temperature of the mixture reached 85°C., heat of reaction evolved and external cooling was applied to keep the temperature under control. After stirring for 1 hour on the steam bath, the mixture was cooled. The cyanoacetyl urea was recovered by filtration, washing with ether and drying. Yield 77.5 g., mp 128.5-130.5°.

reactant | methoxypropylamine | COCCCN | C4H11NO
reactant | potassium cyanate | [O-]C#N.[K+]
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Methoxypropyl urea | COCCCNC(=O)N | C5H12N2O2
